### PR TITLE
[Merged by Bors] - feat(PrimeSpectrum): Clopens in spectra of CommSemirings

### PR DESCRIPTION
**Pull request by alreadydone**
We show that clopens in a commutative semiring are in 1-1 correspondence with pairs of elements `(e,f)` such that `e * f = 0` and `e + f = 1`. This happens precisely when `![e,f]` is a complete orthogonal family of idempotents. Not all idempotents in a comm. semiring has such a complement: for example, in the semiring {0, 0.5, 1} with sup as + and inf as *, 0.5 doesn't have a complement.

---

- [x] depends on: #20618

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 1]
```diff
@@ -818,14 +837,14 @@ lemma basicOpen_injOn_isIdempotentElem :
...
 
-@[stacks 00EE]
-lemma existsUnique_idempotent_basicOpen_eq_of_isClopen {s : Set (PrimeSpectrum R)}
-    (hs : IsClopen s) : ∃! e : R, IsIdempotentElem e ∧ s = basicOpen e := by
-  refine existsUnique_of_exists_of_unique ?_ ?_; swap
-  · rintro x y ⟨hx, rfl⟩ ⟨hy, eq⟩
-    exact basicOpen_injOn_isIdempotentElem hx hy (SetLike.ext' eq)
+lemma eq_biUnion_of_isOpen {s : Set (PrimeSpectrum R)} (hs : IsOpen s) :
+    s = ⋃ (r : R) (_ : ↑(basicOpen r) ⊆ s), basicOpen r :=
+  (isTopologicalBasis_basic_opens.open_eq_sUnion' hs).trans <| by aesop
```
Comment (ADedecker) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:842]: I think this should be right after `isTopologicalBasis_basic_opens`

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 2]
```diff
@@ -846,26 +865,75 @@ lemma existsUnique_idempotent_basicOpen_eq_of_isClopen {s : Set (PrimeSpectrum R
...
+  intro ⟨mul, add⟩
+  rw [zeroLocus_eq_basicOpen_of_mul_add e f mul add]
+
+open TopologicalSpace (Clopens)
+
+/-- Clopen subsets in the prime spectrum of a commutative semiring are in 1-1 correspondence
+with pairs of elements with product 0 and sum 1. Both elements in such pairs must be
+idempotents, but there may be idempotents that do not form such pairs (does not have a
+"complement"). For example, in the semiring {0, 0.5, 1} with ⊔ as + and ⊓ as *, 0.5 has
+no complement. -/
```
Comment (ADedecker) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:919]: Could you recall in that docstring what is the order structure on the LHS?

**Comment by alreadydone** [comment]
Thanks for the review! Changes have been made accordingly.

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 3]
```diff
@@ -862,26 +883,73 @@ lemma existsUnique_idempotent_basicOpen_eq_of_isClopen {s : Set (PrimeSpectrum R
...
+  rw [zeroLocus_eq_basicOpen_of_mul_add e f mul add]
+
+open TopologicalSpace (Clopens)
+
+/-- Clopen subsets in the prime spectrum of a commutative semiring are in order-preserving
+bijection with pairs of elements with product 0 and sum 1. (By definition, `(e₁, f₁) ≤ (e₂, f₂)`
+iff `e₁ * e₂ = e₁`.) Both elements in such pairs must be idempotents, but there may exists
+idempotents that do not form such pairs (does not have a "complement"). For example, in the
+semiring {0, 0.5, 1} with ⊔ as + and ⊓ as *, 0.5 has no complement. -/
+def mulZeroAddOneEquivClopens :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:936]: Can you add this (and maybe something else) to the docstring at the beginning of the file?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:969]: LGTM, just please add the doc at the beginning of the file. Thanks!

Comment (alreadydone) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:1033]: I added ~60 lines of docstring. Would you like to take a look?

Comment (riccardobrasca) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:1038]: Thanks a lot for doing that, that's perfect!
